US08895740B2
3-(6-(piperazin-1-yl)pyridin-2-yl)-1H-pyrazolo[3,4-b]pyrazine
A mixture of 3-(6-chloro-2-pyridyl)-1H-pyrazolo[3,4-b]pyrazine (150 mg, 0.6476 mmol) and piperazine (167.4 mg, 1.943 mmol) in NMP (1.5 mL) was heated in microwave at 150° C. for a total of 1.5 h. Mixture cooled to ambient, diluted with EtOAc and washed with sat. NaHCO3 solution (1×), water (2×), brine (1×), dried (MgSO4), filtered and concentrated in vacuo. Crude product purified by ISCO companion (24 g SiO2, 0.5 to 10% MeOH (containing 10% ammonium hydroxide), pure fractions combined and concentrated in vacuo. Product re-dissolved in MeCN/H2O and freeze-dried to leave title compound as a yellow solid (20 mg, 11%). 1H NMR (DMSO-d6) δ2.82 (t, 4H), 3.56 (t, 4H), 6.85 (d, 1H), 7.69 (t, 1H), 7.77 (d, 1H), 8.65 (d, 1H) and 8.73 (d, 1H). ES+281.9.

reactant | 3-(6-chloro-2-pyridyl)-1H-pyrazolo[3,4-b]pyrazine | 0.6476 mmol, 150 mg | ClC1=CC=CC(=N1)C1=NNC2=NC=CN=C21 | C10H6ClN5
reactant | piperazine | 1.943 mmol, 167.4 mg | N1CCNCC1 | C4H10N2
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(6-(piperazin-1-yl)pyridin-2-yl)-1H-pyrazolo[3,4-b]pyrazine | 20 mg, 11% | N1(CCNCC1)C1=CC=CC(=N1)C1=NNC2=NC=CN=C21 | C14H15N7
